US09126961B2
5-methoxy-2-aminobenzenethiol (3)
2-Amino-6-methoxy-benzothiazole 10 g (55.6 mmol) was suspended in 25% aqueous potassium hydroxide and the mixture heated under reflux for 24 h. The pale yellow solution was cooled and acidified to pH 6 with firstly aqueous 6N HCl then acetic acid. The precipitated solid was filtered, washed with water (3×100 ml), dried (high vac.) to afford the desired material as a pale yellow powder 8.18 g, 95%.

reactant | 2-Amino-6-methoxy-benzothiazole | 55.6 mmol, 10 g | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | HCl | 6N | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | potassium hydroxide | [OH-].[K+]
product | 5-methoxy-2-aminobenzenethiol | 8.18 g, 95% | COC=1C=CC(=C(C1)S)N | C7H9NOS
